US06914074B2
6-(4-Hydroxyphenyl)-1-methyl-2-naphthol
The title compound was prepared by reacting 2-methoxy-6-(4-methoxyphenyl)-1-methylnaphthalene (0.35 g, 1.26 mmol) with boron tribromide 3.8 mL of 1 N solution, 3.8 mmol) according to method D to yield 0.15 g (48%) of a white solid: mp>170° C. (dec.); 1H NMR (DMSO-d6): δ 2.42 (3H, s), 6.87 (2H,k d, J=8.33 Hz), 7.15 (1H, d, J=8.81 Hz), 7.59 (2H, d, J=8.35 Hz), 7.65 (1H, d, J=8.93 Hz), 7.71 (1H, dd, J=1.24 Hz, J=8.90 Hz), 7.88 (1H, d, J=8.87 Hz), 7.95 (1H, s), 9.49 (1H, s), 9.52 (1H, s); MS (ESI) 249 m/z(M−H)−.

reactant | 2-methoxy-6-(4-methoxyphenyl)-1-methylnaphthalene | 1.26 mmol, 0.35 g | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)C | C19H18O2
reactant | boron tribromide | 3.8 mL | B(Br)(Br)Br | BBr3
product | 6-(4-Hydroxyphenyl)-1-methyl-2-naphthol | OC1=CC=C(C=C1)C=1C=C2C=CC(=C(C2=CC1)C)O | C17H14O2
